US05891882
(±)-cis-7-Methoxy-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole
From 7-methoxy-coumarin and N-methoxymethyl-N-trimethylsilylmethyl-benzylamine in an analogous manner as described in Examples 1A-C: 1H NMR (300 MHz, CDCl3) δ 1.92 (br s, 1H), 2.60 (m, 1H), 2.81 (m, 2H), 3.17 (q, 1H), 3.29 (dd, 1H), 3.40 (dd, 1H), (s, 3H), 3.78 (t, 1H), 4.10 (dd, 1H), 6.43 (d, 1H), 6.52 (dd, 1H), 7.03 (d, 1H).

reactant | 7-methoxy-coumarin | COC1=CC=C2C=CC(OC2=C1)=O | C10H8O3
reactant | N-methoxymethyl-N-trimethylsilylmethyl-benzylamine | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
product | (±)-cis-7-Methoxy-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole | COC1=CC2=C(C=C1)[C@H]1[C@H](CNC1)CO2 | C12H15NO2
